US07348017B2
Methyl 2-[3,4-bis(octyloxy)phenyl]acetate (3.94 g, 9.69 mmol) was dissolved in a mixture of methanol (30 ml) and tetrahydrofuran (30 ml), and 1N potassium hydroxide (19 ml) was added thereto. After being refluxed for 3 hours, the mixture was acidified with 3N hydrochloric acid, and then extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over MgSO4, and then the solvent was evaporated out, to give 2-[3,4-bis(octyloxy)phenyl]acetic acid (3.94 g, 89%).

reactant | Methyl 2-[3,4-bis(octyloxy)phenyl]acetate | 9.69 mmol, 3.94 g | C(CCCCCCC)OC=1C=C(C=CC1OCCCCCCCC)CC(=O)OC | C25H42O4
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | potassium hydroxide | 1N, 19 ml | [OH-].[K+]
product | 2-[3,4-bis(octyloxy)phenyl]acetic acid | 3.94 g, 89% | C(CCCCCCC)OC=1C=C(C=CC1OCCCCCCCC)CC(=O)O | C24H40O4
